US09120777B2
B) 4-Bromo-3-fluoro-2-hydroxybenzaldehyde
48% Hydrobromic acid (254 mL) was added to a solution of 4-bromo-3-fluoro-2-methoxybenzaldehyde (52.3 g) in acetic acid (350 mL) at room temperature. The mixture was stirred at 120 C under nitrogen atmosphere for 16 hours and concentrated in vacuo. The residue was diluted with ethyl acetate and water. The mixture was extracted with ethyl acetate. The organic layer was separated, washed with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was triturated with diisopropyl ether and collected by filtration to give the title compound (34.6 g).

reactant | Hydrobromic acid | 254 mL | Br | BrH
reactant | 4-bromo-3-fluoro-2-methoxybenzaldehyde | 52.3 g | BrC1=C(C(=C(C=O)C=C1)OC)F | C8H6BrFO2
solvent | acetic acid | 350 mL | C(C)(=O)O | C2H4O2
product | 4-Bromo-3-fluoro-2-hydroxybenzaldehyde | 34.6 g | BrC1=C(C(=C(C=O)C=C1)O)F | C7H4BrFO2
